US04634704
A mixture of 6.76 parts of 1-[(4-fluorophenyl)methyl]-N-[1-[2-[2-thiazolylamino]ethyl]-4-piperidinyl]-1H-benzimidazol-2-amine, 15 parts of acetic acid anhydride and 40 parts of acetic acid was stirred and refluxed overnight. The reaction mixture was evaporated and the residue was taken up in water. The whole was alkalized with ammonium hydroxide and the product was extracted with trichloromethane. The extract was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (90:10 by volume) as eluent. The second fraction was collected and the eluent was evaporated. The residue was crystallized from acetonitrile, yielding 4.9 parts (66.3%) of N-[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]-amino]-1-piperidinyl]ethyl]-N-(2-thiazolyl)acetamide; mp. 185.5°-193.0° C. (compound 102).

reactant | 1-[(4-fluorophenyl)methyl]-N-[1-[2-[2-thiazolylamino]ethyl]-4-piperidinyl]-1H-benzimidazol-2-amine | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CCNC=2SC=CN2 | C24H27FN6S
reactant | acetic acid anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N-[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]-amino]-1-piperidinyl]ethyl]-N-(2-thiazolyl)acetamide | 66.3% | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CCN(C(C)=O)C=2SC=CN2 | C26H29FN6OS
